US07199147B2
Benzyl chloride (5.5 ml, 47.8 mmol) and potassium carbonate (8.3 g, 60.1 mmol) were added to a solution of ethyl 3-piperidinecarboxylate (6.55 g, 40.0 mmol) in N,N-dimethylformamide (20 ml), and the resulting mixture was stirred at 100° C. for 10 hours. After completion of the reaction, the reaction solution was filtered and the filtrate was subjected to azeotropic concentration with toluene. The resulting residue was purified by a silica gel column chromatography (eluent: n-hexane/ethyl acetate=20/1) to obtain ethyl 1-benzyl-3-piperidinecarboxylate (7.45 g, 75.3%).

reactant | Benzyl chloride | 47.8 mmol, 5.5 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | 60.1 mmol, 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 3-piperidinecarboxylate | 40.0 mmol, 6.55 g | N1CC(CCC1)C(=O)OCC | C8H15NO2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl 1-benzyl-3-piperidinecarboxylate | 7.45 g, 75.3% | C(C1=CC=CC=C1)N1CC(CCC1)C(=O)OCC | C15H21NO2
